US04065572
To 50 ml dimethylformamide is added 5.7 g (51 mmoles) of potassium tert-butoxide and 11.1 g (51 mmoles) of diethyl acetamidomalonate and the resulting mixture stirred at 25° for 15 minutes. The solution is then cooled to 10° and a solution of 10.0 g (51 mmoles) of 4-cyanobenzyl bromide, Case, J. Am. Chem. Soc., 47, 1143, (1925) in 40 ml of dimethylformamide is added dropwise over 20 minutes. The mixture is then stirred at 25° for 1 hour after which a further 0.285 g (2.5 mmoles) of potassium tert-butoxide and 0.5 (2.5 mmoles) of diethyl acetamidomalonate are added and stirring continued for 1 hour at 25°. The reaction mixture is then poured into 300 ml of ice water, causing the product to precipitate. Filtration, washing with water and drying yields 10.3 g (31 mmoles, 61%) of N-acetyl-4-cyano-α-(ethoxycarbonyl)phenylalanine ethyl ester, m.p. 160°-163°.

reactant | potassium tert-butoxide | 51 mmoles, 5.7 g | CC(C)([O-])C.[K+]
reactant | diethyl acetamidomalonate | 51 mmoles, 11.1 g | C(C)(=O)NC(C(=O)OCC)C(=O)OCC | C9H15NO5
reactant | 4-cyanobenzyl bromide | 51 mmoles, 10.0 g | C(#N)C1=CC=C(CBr)C=C1 | C8H6BrN
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
catalyst | potassium tert-butoxide | 2.5 mmoles, 0.285 g | CC(C)([O-])C.[K+]
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | N-acetyl-4-cyano-α-(ethoxycarbonyl)phenylalanine ethyl ester | 31 mmoles, 10.3 g, 61% | C(C)OC(C(NC(C)=O)(CC1=CC=C(C=C1)C#N)C(=O)OCC)=O | C17H20N2O5
